US09382228B2
A suspension of 4-(4-bromo-phenyl)-1-methyl-piperidine (0.3 g, 1.18 mmol), bis(pinacolato)diboron (0.390 g, 1.534 mmol), potassium acetate [KOAc] (0.232 g, 2.361 mmol), and PdCl2(dppf)-DCM adduct (0.096 g, 0.118 mmol) in dioxane (6 mL) was sparged with Ar and heated at 85° C. overnight. The mixture was cooled to RT, treated with EtOAc and the solids removed via filtration through diatomaceous earth. The filtrate was concentrated to dryness to afford 1-methyl-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine (100% yield assumed). MS (ESI) m/z: 302.3 (M+H+).

reactant | 4-(4-bromo-phenyl)-1-methyl-piperidine | 1.18 mmol, 0.3 g | BrC1=CC=C(C=C1)C1CCN(CC1)C | C12H16BrN
reactant | bis(pinacolato)diboron | 1.534 mmol, 0.390 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.361 mmol, 0.232 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.118 mmol, 0.096 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 1-methyl-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine | 100% yield | CN1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H28BNO2
